US06191160B1
1-Methylsufonyl-N-(4-(2-hydroxyethyl)phenyl)spiro[indoline-3,4′-piperidine]-1'-carboxamide 1600
To a stirred solution of 1-methylsufonyl-N-(4-acetylphenyl)spiro[indoline-3,4′-piperidine]-1′-carboxamide (400 mg) in ethanol/dichloromethane (5/5 mL) at 0° C., was added sodium borohydride (100 mg). The mixture was stirred for 1 hour, then 3 N HCl (0.2 mL) was added to destroy the excess hydride. The mixture was then concentrated and partitioned between water and dichloromethane. The organic layer was dried over MgSO4 and evaporated to give the title compound, 1600 as white powder (386 mg). ESI-MS: 430 (M+1)

reactant | 1-methylsufonyl-N-(4-acetylphenyl)spiro[indoline-3,4′-piperidine]-1′-carboxamide | 400 mg | CS(=O)(=O)N1CC2(CCN(CC2)C(=O)NC2=CC=C(C=C2)C(C)=O)C2=CC=CC=C12 | C22H25N3O4S
reactant | sodium borohydride | 100 mg | [BH4-].[Na+]
reactant | HCl | 3 N, 0.2 mL | Cl | ClH
reactant | ethanol dichloromethane | 5 mL | C(C)O.ClCCl
product | 1-Methylsufonyl-N-(4-(2-hydroxyethyl)phenyl)spiro[indoline-3,4′-piperidine]-1'-carboxamide | 386 mg | CS(=O)(=O)N1CC2(CCN(CC2)C(=O)NC2=CC=C(C=C2)CCO)C2=CC=CC=C12 | C22H27N3O4S
